US04472406
To a solution of 4.2 g (18 mmole) of 6-fluoro-5-(imidazol-1-yl)-2-methylquinoline in 75 ml of acetic acid was added 0.5 g of platinum on carbon, and the mixture was reduced on a Paar apparatus. After one day the mixture was filtered, the filtrate was evaporated and the residue was diluted with water. The aqueous mixture was basified with 10% aqueous sodium hydroxide solution. The off-white solid was separated by filtration to provide 6-fluoro-5-(imidazol-1-yl)-2-methyl-1,2,3,4-tetrahydroquinoline.

reactant | 6-fluoro-5-(imidazol-1-yl)-2-methylquinoline | 18 mmole, 4.2 g | FC=1C(=C2C=CC(=NC2=CC1)C)N1C=NC=C1 | C13H10FN3
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
catalyst | platinum on carbon | 0.5 g | [Pt] | Pt
product | 6-fluoro-5-(imidazol-1-yl)-2-methyl-1,2,3,4-tetrahydroquinoline | FC=1C(=C2CCC(NC2=CC1)C)N1C=NC=C1 | C13H14FN3
